US08492549B2
3-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]phenol
A mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (54 mg, 0.24 mmol), 3-(piperidin-3-yl)phenol.HBr (60 mg, 0.23 mmol) and KHCO3 (84 mg, 0.84 mmol) in acetonitrile (2 mL) was heated in a microwave reactor at 160° C. for 5.5 h. The mixture was absorbed on silica and purified by flash chromatography using a gradient of DCM and MeOH (1% triethylamine) as eluent to give 74 mg of the title compound.

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 0.24 mmol, 54 mg | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 3-(piperidin-3-yl)phenol | N1CC(CCC1)C=1C=C(C=CC1)O | C11H15NO
reactant | HBr | 0.23 mmol, 60 mg | Br | BrH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]phenol | 74 mg | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C=2C=C(C=CC2)O | C20H23NO3
